US07781436B2
2-{6-Chloro-3-[4-(2-isopropoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-N,N-dimethyl-acetamide
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2-isopropoxy-phenyl)-piperidin-1-yl]-methanone (preparation described herein), with (commercially available) 2-chloro-N,N-dimethyl-acetamide gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2-isopropoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1)OC(C)C | C23H25ClN2O2
reactant | 2-chloro-N,N-dimethyl-acetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 2-{6-Chloro-3-[4-(2-isopropoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-N,N-dimethyl-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)N(C)C)C(=O)N1CCC(CC1)C1=C(C=CC=C1)OC(C)C | C27H32ClN3O3
